US08445509B2
Production of benzyl {3-fluoro-4-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate
To a solution of benzyl (3-fluoro-4-hydroxyphenyl)carbamate (80 g, 252 mmol) in dimethyl sulfoxide (600 mL) were added cesium carbonate (123 g, 378 mmol) and 5-chloro-2-nitropyridine (40 g, 252 mmol), and the mixture was stirred at room temperature for 3 hr. Saturated aqueous sodium hydrogen carbonate (1000 mL) and water (1000 mL) were added to the reaction mixture, and the mixture was extracted twice with ethyl acetate. The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was washed with hexane/ethyl acetate (=3/1) and collected by filtration to give the title compound (79.8 g, 83%).

reactant | benzyl (3-fluoro-4-hydroxyphenyl)carbamate | 252 mmol, 80 g | FC=1C=C(C=CC1O)NC(OCC1=CC=CC=C1)=O | C14H12FNO3
reactant | cesium carbonate | 378 mmol, 123 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-chloro-2-nitropyridine | 252 mmol, 40 g | ClC=1C=CC(=NC1)[N+](=O)[O-] | C5H3ClN2O2
reactant | sodium hydrogen carbonate | 1000 mL | C(O)([O-])=O.[Na+]
solvent | dimethyl sulfoxide | 600 mL | CS(=O)C | C2H6OS
solvent | water | 1000 mL | O | H2O
product | benzyl {3-fluoro-4-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate | 79.8 g, 83% | FC=1C=C(C=CC1OC=1C=NC(=CC1)[N+](=O)[O-])NC(OCC1=CC=CC=C1)=O | C19H14FN3O5
